US05495023
To a solution of diethyl 2-aminoethylphosphonate (10.5 g), triethylamine (7.0 g) in dichloromethane (200 ml) at 0° C. was added dropwise acetic anhydride (7.1 g). After 20 hours at room temperature, the reaction mixture was diluted with brine, made basic with 5% aqueous potassium carbonate, and extracted twice with dichloromethane. The extract was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (5% methanol in chloroform) to give (12.1 g) of diethyl 2-acetylaminoethylphosphonate as an oil.

reactant | diethyl 2-aminoethylphosphonate | 10.5 g | NCCP(OCC)(OCC)=O | C6H16NO3P
reactant | triethylamine | 7.0 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 7.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | diethyl 2-acetylaminoethylphosphonate | 12.1 g | C(C)(=O)NCCP(OCC)(OCC)=O | C8H18NO4P
